US05192766
3,3-Bis(4-methoxyphenyl)-2-methylacrylic acid
A mixture of 6.019 g of ethyl 3,3-bis(4-methoxyphenyl)acrylate (prepared as described in Preparation 107), 120 ml of ethanol and 80 ml of a 10% w/v aqueous solution of sodium hydroxide was stirred for 14 hours at room temperature. At the end of this time, the reaction mixture was heated on an oil bath at 100° C. for 4 hours, and then ethanol was distilled off. The residue was diluted with ice-water and washed with ethyl acetate. Concentrated hydrochloric acid was dropped onto the aqueous phase on an ice bath, to adjust the pH to a value of 2. The aqueous phase was extracted twice with methylene chloride. The combined methylene chloride extracts were washed with water, dried over anhydrous sodium sulfate and condensed by evaporation under reduced pressure, to afford 5.117 g of the title compound as white crystals, melting at 134°-135° C. (after recrystallisation from a mixture of methylene chloride and hexane).

reactant | ethyl 3,3-bis(4-methoxyphenyl)acrylate | 6.019 g | COC1=CC=C(C=C1)C(=CC(=O)OCC)C1=CC=C(C=C1)OC | C19H20O4
reactant | sodium hydroxide | [OH-].[Na+]
reactant | ethanol | 120 ml | C(C)O | C2H6O
product | 3,3-Bis(4-methoxyphenyl)-2-methylacrylic acid | 5.117 g | COC1=CC=C(C=C1)C(=C(C(=O)O)C)C1=CC=C(C=C1)OC | C18H18O4
